US08202984B2
To a solution of 8-methyl-2H-isoquinolin-1-one (1.15 g) in dichloromethane (20 ml) was added dropwise a solution of bromine (1.26 g) in dichloromethane (4 ml) at room temperature. The mixture was stirred at the same temperature for one hour, and the solvent was evaporated under reduced pressure. The residue was crystallized from ether to give 4-bromo-8-methyl-2H-isoquinolin-1-one (1.86 g) as colorless crystals. APCI-Mass m/Z 238/240 (M+H). (2) The above 4-bromo-8-methyl-2H-isoquinolin-1-one was treated in a manner similar to Reference Example 2 to give the target compound as colorless crystals. APCI-Mass m/Z 356/358M+H).

reactant | 8-methyl-2H-isoquinolin-1-one | 1.15 g | CC=1C=CC=C2C=CNC(C12)=O | C10H9NO
reactant | bromine | 1.26 g | BrBr | Br2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 4-bromo-8-methyl-2H-isoquinolin-1-one | 1.86 g | BrC1=CNC(C2=C(C=CC=C12)C)=O | C10H8BrNO
